US06124323
1-[2-(4-Hydroxyphenoxy)ethyl]-4-(chlorobenzyl)piperidine hydrochloride
To a solution of 1-[2-(4-benzyloxyphenoxy)ethyl]-4-(4-chlorobenzyl)piperidine (200 mg, 0.46 mmol) in 5 mL of chloroform was added 330 mg (1.65 mmol) of iodotrimethylsilane. The resulting solution was allowed to stir at rt for 30 min. and then methanol (4 mL) was added and was stirred for 20 min. Evaporation of solvent gave a residue, which was purified by flash chromatography (20% methanol in chloroform) to give an oil. This oil was dissolved into 5 mL of methanol and 1 mL of 1 M HCl in methanol was added. The resulting solution was allowed to stir for 10 min. Evaporation of methanol gave a residue, to which was added ether (30 mL). The resulting mixture was allowed to stir at rt overnight. The white solid was collected by filtration and dried in vacuo, giving 91 mg (52%) of the title compound, mp 168-170° C. 1H NMR (CD3OD) 1.536 (m, 2 H), 1.656 (d, J=12.6 Hz, 3 H), 2.615 (d, J=6.9 Hz, 2 H), 3.060 (m, 2 H), 3.499 (m, 2 H), 3.591 (m, 2 H), 4.245 (t, J=4.8 Hz, 2 H), 6.710 (m, 2 H), 6.823 (m, 2 H), 7.177 (d, J=8.4 Hz, 2 H), 7.280 (d, J=8.1 Hz, 2 H).

reactant | 1-[2-(4-benzyloxyphenoxy)ethyl]-4-(4-chlorobenzyl)piperidine | 0.46 mmol, 200 mg | C(C1=CC=CC=C1)OC1=CC=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)Cl)C=C1 | C27H30ClNO2
reactant | iodotrimethylsilane | 1.65 mmol, 330 mg | I[Si](C)(C)C | C3H9ISi
reactant | HCl | 1 M, 1 mL | Cl | ClH
reactant | ether | 30 mL | CCOCC | C4H10O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 4 mL | CO | CH4O
product | 1-[2-(4-Hydroxyphenoxy)ethyl]-4-(chlorobenzyl)piperidine hydrochloride | 91 mg, 52% | Cl.OC1=CC=C(OCCN2CCC(CC2)C(C2=CC=CC=C2)Cl)C=C1 | InChI=1S/C20H24ClNO2.ClH/c21-20(16-4-2-1-3-5-16)17-10-12-22(13-11-17)14-15-24-19-8-6-18(23)7-9-19;/h1-9,17,20,23H,10-15H2;1H
